US06130241
3-[2-(Cyclohexen-1-yl)ethyl]-3-azabicyclo[3.1.0]hexane-2,4-dione
A mixture of 2-(cyclohexen-1-yl)ethylamine (0.59 g) and 3-oxabicyclo[3.1.0]hexane-2,4-dione (0.5 g) was heated at 180° C. for 3 hours. The resulting mixture was cooled to room temperature to give the title compound as a yellow solid, m.p. 60-61° C.

reactant | 2-(cyclohexen-1-yl)ethylamine | 0.59 g | C1(=CCCCC1)CCN | C8H15N
reactant | 3-oxabicyclo[3.1.0]hexane-2,4-dione | 0.5 g | C12C(OC(C2C1)=O)=O | C5H4O3
product | 3-[2-(Cyclohexen-1-yl)ethyl]-3-azabicyclo[3.1.0]hexane-2,4-dione | C1(=CCCCC1)CCN1C(C2CC2C1=O)=O | C13H17NO2
